US07872028B2
A 100 mL flask was charged with NaH (116 mg, 2.9 mmol) and Me3S+OI− (639 mg, 2.9 mmol) under N2. Dry DMSO (6 mL) was added. The mixture was stirred at rt for 1 h. A second 100 mL flask was charged with (S)-tert-butyl 1-oxo-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamate (500 mg, 1.9 mmol) dissolved in THF (5 mL) under N2. The solution of NaH and Me3S+OI− was added through a syringe. The resulting mixture was stirred for 1 h. at rt. Brine was added and the mixture was extracted with EtOAc (3×10 mL). The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography to give tert-butyl (1S)-1-(oxiran-2-yl)-2-(tetrahydro-2H-pyran-4-yl)ethylcarbamate (150 mg, 29%). 1H NMR (CD3OD) δ 1.45 (s, 9H), 2.60 (b, 1 h), 2.75 (m, 1H), 3.0 (b, 1H), 3.35 (m, 2H), 4.0 (m, 3H), 4.30 (b, 1H), 5.30 (s, 2H).

reactant | NaH | 2.9 mmol, 116 mg | [H-].[Na+]
reactant | DMSO | 6 mL | CS(=O)C | C2H6OS
reactant | (S)-tert-butyl 1-oxo-3-(tetrahydro-2H-pyran-4-yl)propan-2-ylcarbamate | 1.9 mmol, 500 mg | O=C[C@H](CC1CCOCC1)NC(OC(C)(C)C)=O | C13H23NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | tert-butyl (1S)-1-(oxiran-2-yl)-2-(tetrahydro-2H-pyran-4-yl)ethylcarbamate | 150 mg, 29% | O1C(C1)[C@H](CC1CCOCC1)NC(OC(C)(C)C)=O | C14H25NO4
